### PR TITLE
Add RestrictedProduct.flatten

### PR DESCRIPTION
**Pull request by matthewjasper**
Part of showing adeles have the module topology. Not sure what the maths/Mathlib name for this would be, so it's flatten for now.

### CODE REVIEW

**Comment by matthewjasper** [comment]
awaiting-review

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 1]
```diff
@@ -470,3 +440,139 @@ lemma mem_coset_and_mulSupport_subset_of_isProductAt
...
+@[simp]
+lemma flatten_apply (hf : Filter.Tendsto f ℱ 𝒢) (x) (i : ι) :
+    flatten C hf x i = x (f i) ⟨i, rfl⟩ :=
+  rfl
+
+variable (hf : Filter.comap f 𝒢 = ℱ)
+
+/-- The canonical bijection from a restricted product of products over fibres of a map on indexing
+sets to the restricted product over the original indexing set. -/
+def flatten_equiv :
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:466]:
```suggestion
@[simps]
def flatten_equiv :
```
and then `flatten_equiv_apply` and `flatten_equiv_symm_apply` are auto-generated and tagged `@[simp]`

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 2]
```diff
@@ -470,3 +440,139 @@ lemma mem_coset_and_mulSupport_subset_of_isProductAt
...
+@[simp]
+lemma flatten_equiv_apply (x) (i : ι) :
+    flatten_equiv C hf x i = x (f i) ⟨i, rfl⟩ :=
+  rfl
+
+@[simp]
+lemma flatten_equiv_symm_apply (x) (i : ι₂) (j : f ⁻¹' {i}) :
+    (flatten_equiv C hf).symm x i j = x j.1 :=
+  rfl
+
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:488]:
```suggestion
```

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 3]
```diff
@@ -470,3 +440,139 @@ lemma mem_coset_and_mulSupport_subset_of_isProductAt
...
+variable [Π i, TopologicalSpace (G i)]
+
+/-- The canonical homeomorphism from a restricted product of products over fibres of a map on
+indexing sets to the restricted product over the original indexing set. -/
+def flatten_homeomorph :
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:493]:
```suggestion
@[simps! apply symm_apply]
def flatten_homeomorph :
```

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 4]
```diff
@@ -470,3 +440,139 @@ lemma mem_coset_and_mulSupport_subset_of_isProductAt
...
+@[simp]
+lemma flatten_homeomorph_apply (x) (i : ι) :
+    flatten_homeomorph C hf x i = x (f i) ⟨i, rfl⟩ :=
+  rfl
+
+@[simp]
+lemma flatten_homeomorph_symm_apply (x) (i : ι₂) (j : f ⁻¹' {i}) :
+    (flatten_homeomorph C hf).symm x i j = x j.1 :=
+  rfl
+
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:536]: These can go because of the `simps!`

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 5]
```diff
@@ -470,3 +440,139 @@ lemma mem_coset_and_mulSupport_subset_of_isProductAt
...
+variable (hf : Filter.Tendsto f Filter.cofinite Filter.cofinite)
+
+/-- The equivalence given by `flatten` when both restricted products are over the cofinite
+filter. -/
+def flatten_equiv' :
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:541]:
```suggestion
@[simps! apply symm_apply]
def flatten_equiv' :
```

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 6]
```diff
@@ -470,3 +440,139 @@ lemma mem_coset_and_mulSupport_subset_of_isProductAt
...
+
+omit [(i : ι) → TopologicalSpace (G i)] in
+@[simp]
+lemma flatten_equiv'_symm_apply (x) (i : ι₂) (j : f ⁻¹' {i}) :
+    (flatten_equiv' C hf).symm x i j = x j.1 :=
+  rfl
+
+/-- The homeomorphism given by `flatten` when both restricted products are over the cofinite
+filter and there's a topology on the factors. -/
+def flatten_homeomorph' :
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:560]: etc

**Comment by kbuzzard** [comment]
awaiting-author

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean (hunk 1 above)
Comment (matthewjasper) [reply FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:466]: `simps` (and `simps!`) don't generate lemmas with the statements here. Maybe there's some way to get them to do so, but I can't work it out.

Comment (kbuzzard) [reply FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:466]: I don't understand. If I insert `@[simps]` on line 466 then I get an error on line 481 saying `'RestrictedProduct.flatten_equiv_apply' has already been declared` and a similar error on line 486.

Comment (matthewjasper) [reply FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:466]: Yes, but the generated lemmas are `(flatten_equiv C hf) a = flatten C ⋯ a ` and
```lean
(flatten_equiv C hf).symm x =
    match x with
          | ⟨x, hx⟩ => ⟨fun x_1 i ↦ x ↑i, ⋯⟩ 
```

Comment (kbuzzard) [reply FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:466]: Oh I see! My memory is that somewhere there's a big docstring with all sorts of tricks about how you can make simps work better but I cannot find it and I don't want to hold this PR up any longer.

**Comment by kbuzzard** [comment]
Sorry for the delay on this one.
